US07115615B2
7-[(2R)-2-hydroxy-3-pyrrolidin-1-ylpropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride salt
A mixture of pyrrolidine (0.016 ml), 7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline (0.03 g), chloroform (0.5 ml) and ethanol (0.5 ml) was stirred and heated to 40° C. for 7 hours. The mixture was evaporated and the residue was dissolved in methylene chloride (4 ml). A polystyrene isocyanate resin (prepared according to J. Amer. Chem. Soc., 1997, 119, 4882; loading: 1 mmol/g; 0.3 g) was added and the mixture was shaken at ambient temperature for 1.5 hours. The resin was removed by filtration and washed with methylene chloride. The filtrate was evaporated and the crude product so obtained was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a saturated methanolic ammonia solution as eluent. The material so obtained was dissolved in a 9:1 mixture of methylene chloride and methanol (3 ml) and a 2.2M solution. of hydrogen chloride in diethyl ether (1 ml) was added. The precipitate was isolated and dried under vacuum. There was thus obtained the title compound (0.026 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.85–2.15 (m, 4H), 3.06–3.25 (m, 2H), 3.31–3.47 (m, 2H), 3.6–3.74 (m, 2H), 4.04 (s, 3H), 4.8 (d,2H), 4.38–4.46 (m, 1H), 6.1 (s, 2H), 6.94–7.05 (m, 3H), 7.49 (s, 1H), 8.27 (s, 1H), 8.88 (s, 1H); Mass Spectrum: M+H+ 439.

reactant | pyrrolidine | 0.016 ml | N1CCCC1 | C4H9N
reactant | 7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline | 0.03 g | O1[C@@H](COC2=C(C=C3C(=NC=NC3=C2)NC2=C3C(=CC=C2)OCO3)OC)C1 | C19H17N3O5
reactant | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 7-[(2R)-2-hydroxy-3-pyrrolidin-1-ylpropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline dihydrochloride salt | 0.026 g | Cl.Cl.O[C@@H](COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC)CN2CCCC2 | InChI=1S/C23H26N4O5.2ClH/c1-29-20-9-16-18(10-21(20)30-12-15(28)11-27-7-2-3-8-27)24-13-25-23(16)26-17-5-4-6-19-22(17)32-14-31-19;;/h4-6,9-10,13,15,28H,2-3,7-8,11-12,14H2,1H3,(H,24,25,26);2*1H/t15-;;/m1../s1
